US05004843
A hexane solution of n-butyllithium (2.1 mmol) was cooled to 0° C. under an argon atmosphere, and a hexane solution of n-butanol (74 mg; 1.0 mmol) was added dropwise thereto and stirred. A hexane solution of 3-methyl-3,4-epoxybutene-1 (84.4 mg; 1.0 mmol) was further added thereto, and after the addition was completed, the reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 1 hour, followed by the usual work up. Removal of the solvent and distillation of the residue gave 104 mg of 2-methyl-2-octen-1-ol (yield, 73%). NMR spectrum and gas chromatographic analysis (Golay column, PEG 20M, 45 m, at 140° ) showed that the resulting product contained none of 3-methyl-1-octen-4-ol, 2-methyl-2-vinylhexen-1-ol, 3-methyl-1-octen-3-ol, etc. The Z/E ratio of 2-methyl-2-octen-1-ol was 97.2/2.8.

reactant | n-butyllithium | 2.1 mmol | C(CCC)[Li]
reactant | n-butanol | 1.0 mmol, 74 mg | C(CCC)O | C4H10O
reactant | hexane | CCCCCC | C6H14
product | 2-methyl-2-octen-1-ol | 104 mg, 73% | CC(CO)=CCCCCC | C9H18O
